US06965040B1
In a separate control experiment, regular piperidine deprotection was used. To the Fmoc-Lys(ivDde)-resin (10 mg, ˜8 μmol) was added piperidine in DMF (20%, 2 mL). The mixture was shaken for 1 min and drained. Another 2 mL of 20% piperidine was added and the mixture was shaken for 15 min. The resin was then washed, coupled with Fmoc-Phe as described above to give Ac-Phe-Lys(ivDde)-resin.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | Fmoc-Lys(ivDde) | ˜8 μmol, 10 mg | N([C@@H](CCCCNC(CC(C)C)=C1C(=O)CC(C)(C)CC1=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C34H42N2O6
reactant | piperidine | 2 mL | N1CCCCC1 | C5H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ac-Phe-Lys(ivDde) | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCCNC(CC(C)C)=C1C(=O)CC(C)(C)CC1=O)C(=O)O)C(=O)C | C30H43N3O6
